US04720493
To a suspension of 5.0 g of 2-amino-4-(5-acetylaminomethyl-2-thienyl]thiazole in 200 ml of chloroform is added 12 ml of triethylamine, and is added dropwise 1.7 g of acetyl chloride with stirring at room temperature. The whole mixture is stirred at room temperature for an hour. After completion of the reaction, the resultant mixture is washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. After the residue is crystallized from ethanol, the crystals are collected by filtration and recrystallized from ethanol to give 2-acetylamino-4-(5-acetylaminomethyl-2-thienyl)thiazole, melting at 251° C. with decomposition.

reactant | 2-amino-4-(5-acetylaminomethyl-2-thienyl]thiazole | 5.0 g | NC=1SC=C(N1)C=1SC(=CC1)CNC(C)=O | C10H11N3OS2
reactant | triethylamine | 12 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 1.7 g | C(C)(=O)Cl | C2H3ClO
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-acetylamino-4-(5-acetylaminomethyl-2-thienyl)thiazole | C(C)(=O)NC=1SC=C(N1)C=1SC(=CC1)CNC(C)=O | C12H13N3O2S2
